US09403801B2
5-chloro-N2-(1,3-dimethyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl) pyrimidine-2,4-diamine
To a suspension of tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole2(1H)-carboxylate (573.1 mg, 1.54 mmol) and 1,3-dimethylpyrazol-4-amine hydrochloride (458.8 mg, 3.11 mmol) in dioxane (10 mL) was added trifluoroacetic acid (856.4 mg, 7.51 mmol). The reaction mixture was stirred at 100° C. overnight and adjusted to pH=10 with a saturated Na2CO3 solution, then extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), dried over anhydrous Na2SO4, filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (MeOH/DCM=1/10) to give the title compound as a beige solid (256.8 mg, 48.1%).

reactant | tert-butyl 5-((2,5-dichloropyrimidin-4-yl)amino)hexahydrocyclopenta[c]pyrrole2(1H)-carboxylate | 1.54 mmol, 573.1 mg | ClC1=NC=C(C(=N1)NC1CC2C(CN(C2)C(=O)OC(C)(C)C)C1)Cl | C16H22Cl2N4O2
reactant | 1,3-dimethylpyrazol-4-amine hydrochloride | 3.11 mmol, 458.8 mg | Cl.CN1N=C(C(=C1)N)C
reactant | trifluoroacetic acid | 7.51 mmol, 856.4 mg | FC(C(=O)O)(F)F | C2HF3O2
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 5-chloro-N2-(1,3-dimethyl-1H-pyrazol-4-yl)-N4-(octahydrocyclopenta[c]pyrrol-5-yl) pyrimidine-2,4-diamine | 256.8 mg, 48.1% | ClC=1C(=NC(=NC1)NC=1C(=NN(C1)C)C)NC1CC2C(CNC2)C1 | C16H22ClN7
